US06852731B2
N-[4-(2-bromoacetyl)phenyl]acetamide
To a suspension of 4-acetamidoacetophenone (Lancaster, 5.32 g, 0.03 mol) in 1,4-dioxane/diethyl ether (100 mL, 1:2, v/v) was added bromine (1.53 mL, 0.03 mol) via a syringe. The reaction mixture was stirred at room temperature for 4 hours until the color of the mixture was changed from brown to white. The solid was collected by filtration, washed with diethyl ether, and dried under high vacuum to give the title compound as a white solid (4.8 g).

reactant | 4-acetamidoacetophenone | 0.03 mol, 5.32 g | CC(=O)C1=CC=C(C=C1)NC(=O)C | C10H11NO2
reactant | bromine | 0.03 mol, 1.53 mL | BrBr | Br2
solvent | 1,4-dioxane diethyl ether | O1CCOCC1.C(C)OCC
product | N-[4-(2-bromoacetyl)phenyl]acetamide | 4.8 g | BrCC(=O)C1=CC=C(C=C1)NC(C)=O | C10H10BrNO2
